US05476945
3) Synthesis of 2-amino-1-ethylpyridinium iodide
28.2 g of 2-aminopyridine and 60.8 g of iodoethane were fed into a 1 l three-necked flask provided with a reflux condenser and they were heated under reflux for 2 hours. The reaction liquid was stirred at room temperature for additional 1 hour. Crystals thus formed were suction-filtered and washed with ethyl acetate (50 ml×2). The filtration residue was dried at room temperature under reduced pressure for 3 hours to obtain the intended compound.

reactant | 2-aminopyridine | 28.2 g | NC1=NC=CC=C1 | C5H6N2
reactant | iodoethane | 60.8 g | ICC | C2H5I
product | 2-amino-1-ethylpyridinium iodide | [I-].NC1=[N+](C=CC=C1)CC | InChI=1S/C7H10N2.HI/c1-2-9-6-4-3-5-7(9)8;/h3-6,8H,2H2,1H3;1H
